US04889857
By the use of 7-(2-chloromethylmorpholino)-1-ethyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid and dimethylamine, the reaction is similarly carried out as Example 34 to give 7-[2-(dimethylaminomethyl)morpholino]-1-ethyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, melting at 185°-188° C.

reactant | 7-(2-chloromethylmorpholino)-1-ethyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | ClCC1OCCN(C1)C1=C(C=C2C(C(=CN(C2=C1F)CC)C(=O)O)=O)F | C17H17ClF2N2O4
reactant | dimethylamine | CNC | C2H7N
product | 7-[2-(dimethylaminomethyl)morpholino]-1-ethyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | CN(C)CC1OCCN(C1)C1=C(C=C2C(C(=CN(C2=C1F)CC)C(=O)O)=O)F | C19H23F2N3O4
